### PR TITLE
`ResToImagAxis.Real.pow` and `ResToImagAxis.Pos.pow`

### PR DESCRIPTION
**Pull request by seewoo5**
More helper theorems for `ResToImagAxis`: const, zero, one, neg, pow.

### CODE REVIEW

**Comment by seewoo5** [comment]
awaiting-review

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 1]
```diff
@@ -84,6 +84,21 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) {t : ℝ} (ht : 0
 /--
 Realenss, positivity and essential positivity are closed under the addition and multiplication.
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: pre-existing, but typo fix:
```suggestion
Realness, positivity and essential positivity are closed under the addition and multiplication.
```

**Comment by cameronfreer** [comment]
Do we also want `EventuallyPos.const` (so that each of Real/Pos/EventuallyPos have `const`)? (I'm not sure if this would be used.)

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 2]
```diff
@@ -138,6 +178,27 @@ theorem ResToImagAxis.Pos.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.P
...
+      exact ResToImagAxis.Pos.mul hn hF
+
+theorem ResToImagAxis.EventuallyPos.from_pos {F : ℍ → ℂ} (hF : ResToImagAxis.Pos F) :
+    ResToImagAxis.EventuallyPos F := by
+  refine ⟨hF.1, ⟨1, by positivity, fun t ht ↦ ?_⟩⟩
+  have ht_pos : 0 < t := by linarith
+  exact hF.2 t ht_pos
+
+theorem ResToImagAxis.EventuallyPos.one :
+    ResToImagAxis.EventuallyPos (fun _ => 1) := by
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: I think this works, since `from_pos` already exists
```suggestion
    ResToImagAxis.EventuallyPos (fun _ => 1) :=
  ResToImagAxis.EventuallyPos.from_pos ResToImagAxis.Pos.one
```

File: SpherePacking/ModularForms/ResToImagAxis.lean
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: Pre-existing, but I think we can remove line 242 as it duplicates and shadows line 233.

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 3]
```diff
@@ -92,6 +107,14 @@ theorem ResToImagAxis.Real.add {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
   simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal hGreal
   simp [ResToImagAxis, ht, hFreal, hGreal]
 
+theorem ResToImagAxis.Real.sub {F G : ℍ → ℂ} (hF : ResToImagAxis.Real F)
+    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F - G) := by
+  intro t ht
+  have hFreal := hF t ht
+  have hGreal := hG t ht
+  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal hGreal
+  simp [ResToImagAxis, ht, hFreal, hGreal]
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: I think this can be golfed:
```suggestion
    (hG : ResToImagAxis.Real G) : ResToImagAxis.Real (F - G) :=
  sub_eq_add_neg F G ▸ ResToImagAxis.Real.add hF hG.neg
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 4]
```diff
@@ -107,6 +130,23 @@ theorem ResToImagAxis.Real.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.
...
   simp [ResToImagAxis, ht, hFreal]
 
+theorem ResToImagAxis.Real.pow {F : ℍ → ℂ} (hF : ResToImagAxis.Real F) (n : ℕ) :
+    ResToImagAxis.Real (F ^ n) := by
+  induction n with
+  | zero =>
+      simp only [pow_zero]
+      exact ResToImagAxis.Real.one
+  | succ n hn =>
+      exact ResToImagAxis.Real.mul hn hF
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: I think this works:
```suggestion
  | zero => exact ResToImagAxis.Real.one
  | succ n hn => exact hn.mul hF
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 5]
```diff
@@ -107,6 +130,23 @@ theorem ResToImagAxis.Real.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.
...
+
+theorem ResToImagAxis.Pos.const (c : ℝ) (hc : 0 < c) : ResToImagAxis.Pos (fun _ => c) := by
+  refine ⟨ResToImagAxis.Real.const c, fun t ht ↦ ?_⟩
+  simp only [Function.resToImagAxis_apply, ResToImagAxis, ht, ↓reduceDIte, ofReal_re]
+  exact hc
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: I think this works:
```suggestion
theorem ResToImagAxis.Pos.const (c : ℝ) (hc : 0 < c) : ResToImagAxis.Pos (fun _ => c) :=
  ⟨ResToImagAxis.Real.const c, fun t ht ↦ by simp [ResToImagAxis, ht, hc]⟩
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 6]
```diff
@@ -138,6 +178,27 @@ theorem ResToImagAxis.Pos.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.P
...
+      simp only [pow_zero]
+      exact ResToImagAxis.Pos.one
+  | succ n hn =>
+      exact ResToImagAxis.Pos.mul hn hF
+
+theorem ResToImagAxis.EventuallyPos.from_pos {F : ℍ → ℂ} (hF : ResToImagAxis.Pos F) :
+    ResToImagAxis.EventuallyPos F := by
+  refine ⟨hF.1, ⟨1, by positivity, fun t ht ↦ ?_⟩⟩
+  have ht_pos : 0 < t := by linarith
+  exact hF.2 t ht_pos
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean:182]: I think this works:
```suggestion
    ResToImagAxis.EventuallyPos (fun _ => 1) :=
  ResToImagAxis.EventuallyPos.from_pos ResToImagAxis.Pos.one
```

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 3 above)
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: or this instead:
```suggestion
  simpa [sub_eq_add_neg] using ResToImagAxis.Real.add hF hG.neg
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 7]
```diff
@@ -185,6 +246,16 @@ theorem ResToImagAxis.EventuallyPos.mul {F G : ℍ → ℂ}
...
 
+theorem ResToImagAxis.EventuallyPos.pow {F : ℍ → ℂ}
+    (hF : ResToImagAxis.EventuallyPos F) (n : ℕ) :
+    ResToImagAxis.EventuallyPos (F ^ n) := by
+  induction n with
+  | zero =>
+      simp only [pow_zero]
+      exact ResToImagAxis.EventuallyPos.one
+  | succ n hn =>
+      exact ResToImagAxis.EventuallyPos.mul hn hF
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: here too:
```suggestion
  | zero => exact ResToImagAxis.EventuallyPos.one
  | succ n hn => exact hn.mul hF
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 8]
```diff
@@ -138,6 +178,27 @@ theorem ResToImagAxis.Pos.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.P
...
   simp [ResToImagAxis, ht, mul_pos hc hFpos]
 
+theorem ResToImagAxis.Pos.pow {F : ℍ → ℂ} (hF : ResToImagAxis.Pos F) (n : ℕ) :
+    ResToImagAxis.Pos (F ^ n) := by
+  induction n with
+  | zero =>
+      simp only [pow_zero]
+      exact ResToImagAxis.Pos.one
+  | succ n hn =>
+      exact ResToImagAxis.Pos.mul hn hF
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: here too:
```suggestion
  | zero => exact ResToImagAxis.EventuallyPos.one
  | succ n hn => exact hn.mul hF
```

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 3 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: Thanks!

**Comment by seewoo5** [comment]
> Do we also want `EventuallyPos.const` (so that each of Real/Pos/EventuallyPos have `const`)? (I'm not sure if this would be used.)

I guess we don't use it, but just added for the sake of completeness. Also thank you for your reviews! I believe every comments are addressed.

**Comment by cameronfreer** [comment]
> > Do we also want `EventuallyPos.const` (so that each of Real/Pos/EventuallyPos have `const`)? (I'm not sure if this would be used.)
> 
> I guess we don't use it, but just added for the sake of completeness. Also thank you for your reviews! I believe every comments are addressed.

No problem! Sounds good, and the PR LGTM.
